US06300352B1
c) (3RS, 4S)-4-(4-Bromophenoxy)-5-(methyl)-1-(pyridin-3-yl)-hex-1-yn-3-ol
Oxalyl chloride (6.0 ml) was added dropwise to a solution of dimethylsulfoxide (7.5 ml) in dry dichloromethane (300 ml) at −70° C. The resulting solution was stirred for 15 minutes and then a solution of (2S)-2-(4-bromophenoxy)-3-methyl-1-butanol (13 g) in dry dichloromethane (100 ml) was added dropwise at −70° C. The mixture was stirred for a further 15 minutes and then triethylamine (45 ml) was added. The mixture was allowed to warm to 10° C. with stirring. The mixture was then diluted with isohexane (600 ml), stirred for 10 minutes, filtered and concentrated under reduced pressure. The residue was dissolved in isohexane (500 ml) and ether (50 ml) and then refiltered and concentrated under reduced pressure. The residue was dissolved in dry tetrahydrofuran (100 ml) and added at −78° C. to a solution of 1-lithio-2-pyridin-3-ylacetylene [generated by the addition of n-butyllithium (2.5 M in hexanes, 30 ml) to a solution of pyridin-3-ylacetylene (8.0 g) (J. Amer. Chem. Soc. 1935, 57, 1284) in tetrahydrofuran (150 ml) at −78° C. with stirring for 15 minutes]. The mixture was allowed to room temperature over 30 minutes and was poured into saturated aqueous ammonium chloride (200 ml). The layers were separated and the organic layer dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue (20 g) was purified by column chromatography over silica eluting with dichloromethane then dichloromethane:ethyl acetate (4:1) to give the sub-title compound as an oil and as a 3:1 mixture of diastereomers (15.9 g).

reactant | Oxalyl chloride | 6.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 7.5 ml | CS(=O)C | C2H6OS
reactant | (2S)-2-(4-bromophenoxy)-3-methyl-1-butanol | 13 g | BrC1=CC=C(O[C@H](CO)C(C)C)C=C1 | C11H15BrO2
reactant | triethylamine | 45 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | isohexane | 600 ml | CCCC(C)C | C6H14
product | (3RS, 4S)-4-(4-Bromophenoxy)-5-(methyl)-1-(pyridin-3-yl)-hex-1-yn-3-ol | BrC1=CC=C(O[C@H](C(C#CC=2C=NC=CC2)O)C(C)C)C=C1 | C18H18BrNO2
